US08114510B2
Preparation and Analysis of Mesoporous Carbon Material from Resorcinol-Formaldehyde Polymer (C—ORNL-1)
Mesoporous carbons with highly ordered structure were prepared using weight ratios of 1.1 resorcinol: 1.1 F127:0.48 formaldehyde: 3.55-8.2 ethanol: 5.1-1.67 water: 0.16-0.66 HCl. In a typical synthesis, 1.1 g of resorcinol and 1.1 g of F127 were dissolved in 4.5 ml of ethanol (EtOH), and to this was added 4.5 ml of 3.0M HCl aqueous solution and 1.3 g of 37% formaldehyde (37%) was then added. After stirring for 12-13 min. at room temperature, the clear mixture turned turbid, indicating the formation of the ordered nanocomposite and a phase separation. After stirring for a total of 40 minutes, the mixture was centrifuged at 9500 rpm for 4 minutes in order to completely separate and isolate the polymer-rich gel phase. The gel was then loaded on a large Petri dish and cured at 80° C. and subsequently 150° C. for 24 hours each. Carbonization was carried out under nitrogen atmosphere at 400° C. for 2 hours at a heating rate of 1° C./min followed by further treatment at 850° C. for 3 hours at a heating rate of 5° C./min. The produced carbon material is referred to as C—ORNL-1.

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | formaldehyde | C=O | CH2O
reactant | water | O | H2O
reactant | HCl | Cl | ClH
reactant | resorcinol | 1.1 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | HCl | 3.0M, 4.5 ml | Cl | ClH
reactant | formaldehyde | 1.3 g | C=O | CH2O
solvent | ethanol | 4.5 ml | C(C)O | C2H6O
product | Resorcinol-Formaldehyde | C1(O)=C(C(O)=CC=C1)C=O | C7H6O3
